US05296607
Next, 100 g of 4-acetyl-5-methyl-2-phenyloxazole N-oxide hydrochloride was dissolved in 500 ml of glacial acetic acid and 100 g of zinc powder was added to the solution while cool stirring within a ice water bath. The separation was filtered after addition of 2 l of water and recrystalization was carried out by addition of methanol to produce 10 g of 4-acetyl-5-methyl-2-phenyloxazole (melting point; 74° to 76° C.).

reactant | 4-acetyl-5-methyl-2-phenyloxazole N-oxide hydrochloride | 100 g | Cl.C(C)(=O)C=1[N+](=C(OC1C)C1=CC=CC=C1)[O-]
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 100 g | [Zn] | Zn
product | 4-acetyl-5-methyl-2-phenyloxazole | 10 g | C(C)(=O)C=1N=C(OC1C)C1=CC=CC=C1 | C12H11NO2
